US08426437B2
This compound is prepared according to synthesis 25, from 150 mg (0.46 mmol) of 8-chlorosulfonyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid (synthesis 2) and 60 mg (0.55 mmol) of 3-hydroxy-aniline. After purification by chromatography on silica (eluent dichloromethane/methanol 95/5) then trituration in diethyl ether, 22 mg (12%) of 8-(3-hydroxy-phenylsulfamoyl)-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-ethyl carboxylate is obtained in the form of a yellow solid.

reactant | 8-chlorosulfonyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid | 0.46 mmol, 150 mg | ClS(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3C(=O)O | C12H7ClN2O5S
reactant | 3-hydroxy-aniline | 0.55 mmol, 60 mg | OC=1C=C(N)C=CC1 | C6H7NO
product | 8-(3-hydroxy-phenylsulfamoyl)-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline 1-ethyl carboxylate | 22 mg, 12% | OC=1C=C(C=CC1)NS(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3.C(C)C(=O)[O-] | InChI=1S/C17H13N3O4S.C3H6O2/c21-11-3-1-2-10(8-11)20-25(23,24)12-4-5-15-14(9-12)13-6-7-18-16(13)17(22)19-15;1-2-3(4)5/h1-9,18,20-21H,(H,19,22);2H2,1H3,(H,4,5)/p-1
